US08012976B2
(2R,6R)-tert-Butyl 4-(4-(9-(4-fluorophenyl)-3-oxo-3,7,8,9-tetrahydro-2H-pyrido[4,3,2-de]phthalazin-8-yl)benzyl)-2,6-dimethylpiperazine-1-carboxylate
A mixture of 4-(9-(4-fluorophenyl)-3-oxo-3,7,8,9-tetrahydro-2H-pyrido[4,3,2-de]phthalazin-8-yl)benzaldehyde (200 mg, 520 mmol), tert-butyl 2,6-dimethylpiperazine-1-carboxylate (335 mg, 1.56 mmol) in methylene chloride (10 mL) was stirred at room temperature overnight, then NaBCNH3 (129 mg, 2.08 mmol) was added and the mixture was stirred for another 5 hours. After removal of solvents, the residue was purified by column chromatography (silica gel, petroleum ether/ethyl acetate=3:1 to 1:1) to give the title compound (72 mg, 24%). LC-MS (ESI) m/z: 584 (M+1)+.

reactant | 4-(9-(4-fluorophenyl)-3-oxo-3,7,8,9-tetrahydro-2H-pyrido[4,3,2-de]phthalazin-8-yl)benzaldehyde | 520 mmol, 200 mg | FC1=CC=C(C=C1)C1C(NC=2C=3C1=NNC(C3C=CC2)=O)C2=CC=C(C=O)C=C2 | C23H16FN3O2
reactant | tert-butyl 2,6-dimethylpiperazine-1-carboxylate | 1.56 mmol, 335 mg | CC1N(C(CNC1)C)C(=O)OC(C)(C)C | C11H22N2O2
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | (2R,6R)-tert-Butyl 4-(4-(9-(4-fluorophenyl)-3-oxo-3,7,8,9-tetrahydro-2H-pyrido[4,3,2-de]phthalazin-8-yl)benzyl)-2,6-dimethylpiperazine-1-carboxylate | 72 mg, 24% | FC1=CC=C(C=C1)C1C(NC=2C=3C1=NNC(C3C=CC2)=O)C2=CC=C(CN3C[C@H](N([C@@H](C3)C)C(=O)OC(C)(C)C)C)C=C2 | C34H38FN5O3
